US05965745
To a solution of 4-[5-nitro-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester (5.04 grams, 14.80 mmol) in methylene chloride (150 mL) was added chlorosulfonylisocyanate (1.3 mL, 14.80 mmol) and the resulting solution was stirred for 5 days at room temperature. The solution was then concentrated in vacuo, and the crude product dissolved in a 6:1 ratio of acetone:water (180 mL). The pH of this solution was adjusted to approx. 8 by the addition of 2 M sodium hydroxide (aq). The resulting mixture was stirred, at room temperature, for 45 minutes. The reaction was diluted with water (300 mL) and the resulting suspension was stirred for 30 minutes. Filtration, followed by trituration of the solid in methanol gave 4-[1-carbamoyl-5-nitro-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester (1.75 grams). The filtrate was concentrated, and the crude chromatographed on silica gel (2.5% methanol/methylene chloride) to give additional 4-[1-carbamoyl-5-nitro-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester (0.36 grams, 37% yield overall).

reactant | 4-[5-nitro-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester | 14.80 mmol, 5.04 grams | COC(C1=CC(=C(C=C1)CC1=CNC2=CC=C(C=C12)[N+](=O)[O-])OC)=O | C18H16N2O5
reactant | chlorosulfonylisocyanate | 14.80 mmol, 1.3 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-carbamoyl-5-nitro-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester | 1.75 grams | COC(C1=CC(=C(C=C1)CC1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C(N)=O)OC)=O | C19H17N3O6
